US06265130B1
Synthesis of bicyclo[3,2,2]non-8-ene-2-carbonyl mono-tert-butyl malonate
To a solution of sodium salt of mono-tert-butyl malonate (20.4 g) prepared according to the same procedure as in Example 4, bicyclo[3,2,2]non-8-ene-2-carbonyl chloride (18.5 g) obtained in Preparation Example 3 is slowly added, and the reaction mixture is reacted at −20° C. in a nitrogen atmosphere for 1 hour, and further reacted at 55° C. for 8 hours. Then, the mixture is worked up as in the procedure of Example 1, to obtain 25 g of the pure title compound (purity: 99%, yield: 82%).

reactant | sodium | [Na] | Na
reactant | mono-tert-butyl malonate | 20.4 g | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | bicyclo[3,2,2]non-8-ene-2-carbonyl chloride | 18.5 g | C12C(CCC(CC1)C=C2)C(=O)Cl | C10H13ClO
product | bicyclo[3,2,2]non-8-ene-2-carbonyl mono-tert-butyl malonate | 25 g, yield: 82% | C(CC(=O)OC(C)(C)C)(=O)OC(=O)C1C2CCC(CC1)C=C2 | C17H24O5
